US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-[2-({3-[2-(3-{(S)-2-[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]propyl}phenyl)acetylamino]propyl}methylcarbamoyl)ethyl]piperidin-4-yl Ester
A mixture of (3-{(S)-2-[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]propyl}phenyl)acetic acid (135 mg, 0.264 mmol); 2-chloropyridium triflate on Wang resin (polymer-supported Mukaiyama reagent) (1.19 mmol/g loading; 635 mg, 0.775 mmol) and N,N-diisopropylethylamine (132 μL, 0.755 mmol) in DMF (4.78 mL) was stirred at room temperature for 30 min. Biphenyl-2-ylcarbamic acid 1-{2-[(3-aminopropyl)methylcarbamoyl]ethyl}piperidin-4-yl ester (122 mg, 0.278 mmol) was added and this mixture was stirred at room temperature overnight. The mixture was filtered and the resin was washed with DCM (4 mL), MeOH (4 mL) and THF (4 mL). The filtrate was concentrated under reduced pressure and the residue was dissolved in DCM. This solution was washed with water (2×10 mL), saturated aqueous sodium bicarbonate (2×10 mL) and brine (1×10 mL); and then dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (0-20% MeOH in DCM) to give the title compound (59 mg, 24% yield) as a white solid.

reactant | (3-{(S)-2-[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]propyl}phenyl)acetic acid | 0.264 mmol, 135 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@H](CC=1C=C(C=CC1)CC(=O)O)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C28H38N2O5Si
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | N,N-diisopropylethylamine | 0.755 mmol, 132 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Biphenyl-2-ylcarbamic acid 1-{2-[(3-aminopropyl)methylcarbamoyl]ethyl}piperidin-4-yl ester | 0.278 mmol, 122 mg | NCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C25H34N4O3
solvent | DMF | 4.78 mL | CN(C)C=O | C3H7NO
product | Biphenyl-2-ylcarbamic Acid 1-[2-({3-[2-(3-{(S)-2-[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]propyl}phenyl)acetylamino]propyl}methylcarbamoyl)ethyl]piperidin-4-yl Ester | 59 mg, 24% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@H](CC=1C=C(C=CC1)CC(=O)NCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C53H70N6O7Si
